Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypotension
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ yr old female w/ hx of CAD w/ MI s/p 
stent to the RCA in ___ and hypertension as well as newly 
diagnosed metastatic KRAS-mutant lung adenocarcinoma. Had recent 
hospitalization, found to have malignant pleural effusion and is 
s/p pleurex. She had initial oncology visit today during which 
she had near syncopal event w/ bradycardia and severe 
hypotension to ___. Code blue, pt never lost pulse, see clinic 
note for details. She was started on peripheral dopamine, given 
2L NS and amp D50. BP and HR improved and she became alert, 
dopamine stopped en route to ED.  
Initial VS in ED 12:14 0 97.2 95 102/64 18 100% 2L  
REmained stable, VS prior to transfer Today ___ 107 
129/83 20 98% RA  
In ED pt underwent CTA chest that was negative for PE and 
EKG/trop w/o signs of ACS.  
On arrival to floor pt reports that she did have some anxiety 
and also suddenly felt severely hungry and thirsty just prior to 
nearly passing out. She got lightheaded but no racing heart, 
chest pain, SOB, diaphoresis. She also had similar episode of 
near syncope about 6 weeks ago at which time she also felt 
suddenly extremely hungry. No other syncopal events in past. Is 
unknown if she had low BG w/ event today, she was given D50 
during code blue.  
She had no further lightheadedness in ED. Has since been up to 
bathroom and feeling fine. Reports she has been eating several 
meals per day and ate this am prior to coming to clinic. Has 
lost about 15lb in the past year and is trying to gain weight 
but she does not have much appetite and has to force herself to 
eat. No ab pain. Has not been out in the heat. No diarrhea or 
vomiting. No fever/chills. No bleeding. Says she has been able 
to do usual activities and get around the house ok. Gets 
dyspneic after walking 1 block. Denies SOB at rest and notes 
that she gets increased pressure over L lower chest that is 
relieved by pleurex drainage and builds up again after 2 days. 
Pleurex last drained ___ for 650cc.  
She does mention regarding episode today "it could have been 
emotional" as she says it was very difficult receiving bad news 
today and it was hard to look at her children crying.  

 
Past Medical History:
HTN  
Inferior ST elevations s/p emergent cath with RCA cypher  
stents x3 in ___ 
 
Social History:
___
Family History:
F: Unknown
M: Had a pacemaker, ?CAD, no known MI
-1 sister w/diabetes; no known CAD

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS: 99.0 140/90 112 18 100%RA
General: NAD   
HEENT: MMM, no OP lesions,  
Neck: supple, no JVD  
CV: RR, NL S1S2 no S3S4 or MRG  
PULM: CTAB  
ABD: BS+, soft, NTND, no masses or hepatosplenomegaly  
EXT: warm well perfused, no edema  
SKIN: No rashes or skin breakdown  
NEURO: alert and oriented x 4, ___, EOMI, no nystagmus, face 
symmetric, no tongue deviation, full hand grip, shoulder shrug 
and bicep flexion, full toe dorsiflexion and hip flexion against 
resistance bilateral, sensation intact to light touch, no 
clonus, no dysmetria on FTN or HTS, visual fields full to 
confrontation. 

DISCHARGE PHYSICAL EXAM:
VS: 98.9  ___  ___   96-100% RA  
Orthostatics negative
General: NAD   
HEENT: MMM, no OP lesions,  
Neck: supple, no JVD  
CV: RR, NL S1S2 no S3S4 or MRG  
PULM: CTAB  
ABD: BS+, soft, NTND, no masses or hepatosplenomegaly  
EXT: warm well perfused, no edema  
SKIN: No rashes or skin breakdown  
NEURO: alert and oriented x 4, ___, EOMI, no nystagmus, face 
symmetric, no tongue deviation, full hand grip, shoulder shrug 
and bicep flexion, full toe dorsiflexion and hip flexion against 
resistance bilateral, sensation intact to light touch, no 
clonus, no dysmetria on FTN

 

 
Pertinent Results:
ADMISSION LABS:
___ 10:30AM BLOOD WBC-7.0 RBC-3.64* Hgb-11.4 Hct-36.1 
MCV-99* MCH-31.3 MCHC-31.6* RDW-14.0 RDWSD-50.5* Plt ___
___ 12:55PM BLOOD Neuts-80.4* Lymphs-8.6* Monos-9.4 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-9.19*# AbsLymp-0.98* 
AbsMono-1.07* AbsEos-0.09 AbsBaso-0.03
___ 10:30AM BLOOD Plt ___
___ 12:55PM BLOOD Plt ___
___ 02:37PM BLOOD ___ PTT-25.6 ___
___ 05:40PM BLOOD Plt ___
___ 07:05AM BLOOD Plt ___
___ 10:30AM BLOOD Ret Aut-3.5* Abs Ret-0.13*
___ 10:30AM BLOOD UreaN-7 Creat-0.5 Na-137 K-4.6 Cl-105 
HCO3-25 AnGap-12
___ 10:30AM BLOOD Glucose-100
___ 12:55PM BLOOD Glucose-144* UreaN-7 Creat-0.5 Na-138 
K-3.6 Cl-106 HCO3-24 AnGap-12
___ 10:30AM BLOOD ALT-17 AST-18 AlkPhos-83 TotBili-0.5
___ 10:30AM BLOOD Lipase-16
___ 12:55PM BLOOD cTropnT-0.02*
___ 10:30AM BLOOD TotProt-6.2* Albumin-3.2* Globuln-3.0 
Calcium-9.1 Phos-5.2* Mg-2.2 Iron-20*
___ 12:55PM BLOOD Calcium-7.7* Phos-4.3 Mg-1.9
___ 10:30AM BLOOD calTIBC-242* VitB12-258 Folate-8.9 
Ferritn-129 TRF-186*

URINE STUDIES:
___ 02:14PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:14PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-150 Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 02:14PM URINE RBC-2 WBC-8* Bacteri-FEW Yeast-NONE Epi-9
___ 02:14PM URINE CastHy-1*
___ 02:14PM URINE Mucous-MOD
___ 02:14PM URINE
___ 02:14PM URINE Hours-RANDOM
___ 02:14PM URINE Hours-RANDOM
___ 02:14PM URINE Uhold-HOLD

DISCHARGE LABS:

___ 02:14PM URINE Gr Hold-HOLD
___ 06:25AM BLOOD WBC-4.3 RBC-3.15* Hgb-9.8* Hct-31.2* 
MCV-99* MCH-31.1 MCHC-31.4* RDW-13.9 RDWSD-50.5* Plt ___
___ 06:25AM BLOOD Neuts-63.8 ___ Monos-14.4* 
Eos-2.1 Baso-0.2 Im ___ AbsNeut-2.74# AbsLymp-0.83* 
AbsMono-0.62 AbsEos-0.09 AbsBaso-0.01
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-92 UreaN-4* Creat-0.5 Na-141 
K-4.0 Cl-109* HCO3-25 AnGap-11
___ 06:25AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.1

EKG:
___: Sinus rhythm. Delayed R wave transition. Non-specific 
lateral ST-T wave 
flattening. Compared to the previous tracing of ___ the rate 
has 
increased. The axis is more rightward. There is delayed R wave 
transition. 
No diagnostic interim change. 

___: Sinus tachycardia with increase in rate as compared to 
the previous tracing  
of ___. Delayed R wave transition and diffuse non-specific 
ST-T wave 
changes, in particular ST-T wave flattening in leads II, III, 
and aVF. No 
diagnostic interim change. 

IMAGING:
___ CXR 
IMPRESSION:  
Persistent hydropneumothorax on the left and abnormal contour or 
of the left mediastinum is similar compared to exam from ___. 

___ CTA CHEST
IMPRESSION:  
1.  No evidence of pulmonary embolism. 
  
2.  Compared with the CT from ___, the degree of left 
pneumothorax 
has decreased, but there is been a severe increase in the amount 
of layering, 
nonhemorrhagic left pleural fluid.  This is not grossly changed 
since the 
interval PET-CT.  The chest tube terminates in the lower left 
pleural space.  
There is a new interfissural fluid collection in the left lung, 
measuring 3.3 
cm, correlating with findings from the earlier chest x-ray. 
  
3.  Worsening peribronchial and perivascular thickening, which 
may be due to 
edema or tumor progression. 
  
4.  Redemonstration of the known left juxtahilar pulmonary mass 
and 
conglomerate adenopathy with multiple bilateral pulmonary 
nodules, consistent 
with metastases. 

___ ECHO
The left atrium is normal in size. The left ventricular cavity 
is small. Left ventricular systolic function is hyperdynamic (EF 
= 75%). Right ventricular chamber size and free wall motion are 
normal. The aortic arch is mildly dilated. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The pulmonary artery systolic pressure could not be determined. 
There is a small pericardial effusion subtending primarily the 
right ventricular free wall. An epicardial mass (1.5 x 1.9 cm) 
is seen in the anterior pericardial space. The effusion is echo 
dense, consistent with blood, inflammation or other cellular 
elements. No right atrial or right ventricular diastolic 
collapse is seen. 

Compared with the prior study (images reviewed) of ___, 
the left ventricle is now small and hyperdynamic. An epicardial 
mass and small pericardial effusion are now present.  

 
Brief Hospital Course:
___ yr old female w/ hx of CAD and HTN, recently diagnosed 
extensive ___ w/ brain metastases who is admitted from clinic 
after having near syncopal event w/ severe hypotension and 
bradycardia that has since resolved

# Near syncope/Hypotension: Likely vasovagal event while under 
significant emotional duress in clinic due to the magnitude of 
her cancer diagnosis. Received peripheral dopamine briefly, IVF 
and D50. Ruled out for pulmonary embolism and acute coronary 
syndrome, and subsequently admitted to the oncology service for 
monitoring. She was stable on telemetry. TTE revealed anterior 
pericardial effusion and epicardial metastatic lesion, pulsus 
measured at 4. As stable for 48 hours, discharged home with 
services. 

# metastatic NSCLC: Planned prior to admission for carboplatin 
and pemetrexed and subsequent whole brain radiation therapy. 
Radiation oncology was consulted while inpatient, plan made to 
continue with systemic chemotherapy first, as initially 
intended. Received B12 and folate on ___. Also found to be iron 
deficient and started on PO iron. PleurX tube drained once while 
inpatient, and will resume doing this with ___ services upon 
discharge.

TRANSITIONAL ISSUES:
- resumption of ___ services for drainage of malignant pleural 
effusion
- ___ on ___, received B12/folate on ___ 
and will continue with daily folate
- subsequent radiation therapy
- B12 level borderline low, homocysteine and MMA pending, 
consider ongoing B12 supplementation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES TID 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES TID 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Simvastatin 20 mg PO QPM 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES TID 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES TID 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Omeprazole 20 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [iron] 325 mg (65 mg iron) 1 capsule(s) by 
mouth daily Disp #*30 Capsule Refills:*6
9. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
vasovagal hypotension and bradycardia
metastatic non-small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care while you were 
inpatient at ___. You were admitted to the hospital after your 
blood pressure and heart rate became very low in clinic. 
Fortunately, this was not due to a problem with your heart or 
lungs. You were quite stable, and are therefore being discharged 
home. You will start chemotherapy for your disease under the 
direction of Drs. ___ next week on ___.

We wish you the best,
Your ___ team
 
Followup Instructions:
___